US06303742B1
62.8 g (200 milimole) of 2,4-dinitrophenyl cinnamate, 15 g of carbon black with 5% Pt and 2% iron (product with water content of about 50%), and 500 ml of 1,4-dioxane were placed in a reaction vessel (hydrogenating apparatus), and then the reaction mixtures were heated at 60° C. with stirring under a hydrogen atmosphere. In approximately 20 hours, 14.50 L of hydrogen was absorbed, and the reaction was completed when the absorption of hydrogen stopped. Then the reacted solution was separated by filtration to remove the catalyst. The filtrate was concentrated, and 50.8 g of 2,4-diaminophenyl cinnamate was yielded. The exothermic peak temperature was 230° C.

reactant | 2,4-dinitrophenyl cinnamate | 62.8 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H10N2O6
reactant | carbon black | 15 g | C | CH4
catalyst | iron | [Fe] | Fe
solvent | 1,4-dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2,4-diaminophenyl cinnamate | 50.8 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)N)N | C15H14N2O2
